US08071592B2
(a) Dimethyl {[2-(ethyloxy)-2-oxoethyl]oxy}propanedioate
To a solution of dimethyl diazopropanedioate (4 g, 25 mmol), prepared according to Peace, Carman, Wulfman, Synthesis, 658-661, (1971), in DCM (10 mL) was added ethyl glycolate (1.2 mL, 12.8 mmol) followed by rhodium (II) acetate dimer (2 g, 20% mol). The reaction mixture was stirred at room temperature for 24 h. The resulting suspension was filtered through a pad of Celite® and the solvent was removed in vacuo. The crude residue was purified by column chromatography (silica gel) using a 0-60% EtOAc/hexanes gradient to provide the desired product as an oil (3 g, 97%).

reactant | dimethyl diazopropanedioate | 25 mmol, 4 g | [N+](=[N-])=C(C(=O)OC)C(=O)OC | C5H6N2O4
reactant | ethyl glycolate | 12.8 mmol, 1.2 mL | C(CO)(=O)OCC | C4H8O3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | rhodium (II) acetate dimer | 2 g | CC(=O)O.CC(=O)O.CC(=O)O.CC(=O)O.[Rh].[Rh]
product | Dimethyl {[2-(ethyloxy)-2-oxoethyl]oxy}propanedioate | 3 g, 97% | C(C)OC(COC(C(=O)OC)C(=O)OC)=O | C9H14O7
